US08809552B2
b) 6-(4-Chlorophenylsulfonyl)-N-(2,4-dichlorobenzyl)-1,6-diazaspiro[3.3]heptane-1-carboxamide
To a solution of tert-butyl 1-(2,4-dichlorobenzylcarbamoyl)-1,6-diazaspiro[3.3]heptane-6-carboxylate (440 mg, 1.10 mmol) in dichloromethane (7 mL) was added TFA (593 μl, 7.7 mmol). After being stirred 2 h at ambient temperature, the reaction mixture was concentrated under reduced pressure. The residue was partitioned in toluene (10 mL) and then concentrated; this procedure was repeated twice to give the free amine (468 mg), which was used without further purification in the next step. To a solution of the previously obtained N-(2,4-dichlorobenzyl)-1,6-diazaspiro[3.3]heptane-1-carboxamide in dichloromethane (12 mL) was added at 0° C. triethylamine (217 μl, 1.56 mmol) followed by 4-chlorobenzene-1-sulfonyl chloride (329 mg, 1.56 mmol). The reaction mixture was left to warm to ambient temperature overnight, and was then diluted with dichloromethane (10 mL) and quenched with water (10 mL). The aqueous phase was extracted with dichloromethane and the combined organic phases were washed with brine, dried over sodium sulfate and were concentrated under reduced pressure. Purification by chromatography (SiO2; heptane:ethyl acetate 1:4) afforded the title compound (445 mg, 85%) as a colorless solid. HRMS (EI): 473.0134 (exact mass calculated for C19H18Cl3N3O3S ([M]+)=473.0134).

reactant | N-(2,4-dichlorobenzyl)-1,6-diazaspiro[3.3]heptane-1-carboxamide | ClC1=C(CNC(=O)N2CCC23CNC3)C=CC(=C1)Cl | C13H15Cl2N3O
reactant | triethylamine | 1.56 mmol, 217 μl | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzene-1-sulfonyl chloride | 1.56 mmol, 329 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-(4-Chlorophenylsulfonyl)-N-(2,4-dichlorobenzyl)-1,6-diazaspiro[3.3]heptane-1-carboxamide | 445 mg, 85% | ClC1=CC=C(C=C1)S(=O)(=O)N1CC2(CCN2C(=O)NCC2=C(C=C(C=C2)Cl)Cl)C1 | C19H18Cl3N3O3S
